US07598383B2
4-(4-Bromo-2-fluorophenylamino)-5-fluoro-6-oxo-1,6-dihydropyridine-3-carboxylic acid
A stirred solution of 4-(4-bromo-2-fluorophenylamino)-5-fluoro-6-oxo-1,6-dihydropyridine-3-carboxylic acid methyl ester (0.10 g, 0.278 mmol) in 4:1 THF:MeOH (5 mL) was treated with 1 M LiOH solution (0.75 mL). After 8 hours, the reaction mixture was acidified to pH 1 with 1 N HCl and extracted with ethyl acetate. The combined organic extracts were washed with brine, dried (MgSO4) and concentrated under reduced pressure to give 0.095 g (99%) of desired product as a white solid. MS APCI (−) m/z 343, 345 (M−, Br pattern) detected; 1H NMR (400 mHz, DMSO) δ 12.34 (bs, 1H), 9.39 (bs, 1H), 7.95 (s, 1H), 7.59 (d, 1H), 7.36 (d, 1H), 7.12 (td, 1H).

reactant | 4-(4-bromo-2-fluorophenylamino)-5-fluoro-6-oxo-1,6-dihydropyridine-3-carboxylic acid methyl ester | 0.278 mmol, 0.10 g | COC(=O)C1=CNC(C(=C1NC1=C(C=C(C=C1)Br)F)F)=O | C13H9BrF2N2O3
reactant | THF | C1CCOC1 | C4H8O
reactant | LiOH | 1 M, 0.75 mL | [Li+].[OH-]
reactant | HCl | 1 N | Cl | ClH
solvent | MeOH | 5 mL | CO | CH4O
product | 4-(4-Bromo-2-fluorophenylamino)-5-fluoro-6-oxo-1,6-dihydropyridine-3-carboxylic acid | 0.095 g, 99% | BrC1=CC(=C(C=C1)NC=1C(=CNC(C1F)=O)C(=O)O)F | C12H7BrF2N2O3
